US06518423B1
Methyl 4-[1-(tert-butoxycarbonyl)piperidin-4-yl]-3-butenoate
3.12 g of maleic acid and one drop of piperidine were added to 50 ml of xylene and the resulting mixture was heated under reflux for 30 minutes. After adding 2.27 g of [1-(tert-butoxycarbonyl)piperidin-4-yl]acetaldehyde, the resulting mixture was heated under reflux for 2 hours and 20 minutes while eliminating water with a Dean Stark trap. Then the reaction mixture was distributed into diethyl ether and water, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The obtained residue was dissolved in 150 ml of diethyl ether and treated with a solution of diazomethane in diethyl ether. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.71 g of the title compound as an oily substance.

reactant | maleic acid | 3.12 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | [1-(tert-butoxycarbonyl)piperidin-4-yl]acetaldehyde | 2.27 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC=O | C12H21NO3
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 4-[1-(tert-butoxycarbonyl)piperidin-4-yl]-3-butenoate | 0.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=CCC(=O)OC | C15H25NO4
